US03954764
95 G. of 1-carbethoxy-4-(8-chloro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-piperazine are stirred together with 1,000 ml. of ethyleneglycol, 77 g. of potassium hydroxide and 10 ml. of water on a bath of 160° for 6 hours. The reaction mixture is poured over ice water and extracted with ether. The ether extract is washed with water, dried and evaporated, whereby 1-(8-chloro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-piperazine is obtained as a red-brown viscous oil. After recrystallization from acetone/petroleum ether the product is obtained as crystals having a melting point of 125°-127°.

reactant | 1-carbethoxy-4-(8-chloro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-piperazine | C(=O)(OCC)N1CCN(CC1)C1CC2=C(SC3=C1C=C(C=C3)Cl)C=CC(=C2)C | C22H25ClN2O2S
reactant | ethyleneglycol | C(CO)O | C2H6O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 1-(8-chloro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-piperazine | ClC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)N3CCNCC3)C1 | C19H21ClN2S
